US04886794
5[[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]methyl]-3-methyl-2-oxazolidinone
This compound was prepared according to the procedure of Example 1. A mixture of 4.6 g (0.015 mole) of α,α-bis-(p-fluorophenyl)-4-piperidinemethanol, 2.2 g (0.015 mole) of 5-(chloromethyl)-3-methyl-2-oxazolidinone, 5.3 g (0.05 mole) of anhydrous sodium carbonate and 0.4 g of potassium iodide in 100 ml of 1-butanol gave a gum as residue. The gum was purified by column chromatography on 50 g of Florisil®. Fractions eluted with 5-20% acetone in benzene were combined and concentrated to give a solid residue. The solid was recrystallized from isopropyl ether-2-propanol to yield 1.5 g (24%) of white solid, m.p. 147°-148° C.

reactant | α,α-bis-(p-fluorophenyl)-4-piperidinemethanol | 0.015 mole, 4.6 g | FC1=CC=C(C=C1)C(O)(C1CCNCC1)C1=CC=C(C=C1)F | C18H19F2NO
reactant | 5-(chloromethyl)-3-methyl-2-oxazolidinone | 0.015 mole, 2.2 g | ClCC1CN(C(O1)=O)C | C5H8ClNO2
reactant | sodium carbonate | 0.05 mole, 5.3 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium iodide | 0.4 g | [I-].[K+]
solvent | 1-butanol | 100 ml | C(CCC)O | C4H10O
product | 5[[4-[Bis(4-fluorophenyl)hydroxymethyl]-1-piperidinyl]methyl]-3-methyl-2-oxazolidinone | 1.5 g, 24% | FC1=CC=C(C=C1)C(C1CCN(CC1)CC1CN(C(O1)=O)C)(O)C1=CC=C(C=C1)F | C23H26F2N2O3
